US08735417B2
To a solution of ethyl 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate (38 mg, 0.08 mmol) in tetrahydrofuran (0.5 mL) and methanol (0.5 mL) was added 1M aqueous lithium hydroxide (0.5 mL, 0.5 mmol). The reaction was heated to 50° C. for 2 hours. The mixture was then cooled to room temperature, diluted with 2-methyltetrahydrofuran (30 mL), and washed with 0.1N aqueous hydrochloride acid (30 mL) and brine (30 mL). The aqueous fractions were further extracted with 2-methyltetrahydrofuran (30 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure to provide 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid (36 mg, 0.08 mmol, quantitative) as a light blue solid. MS APCI: [M+H]+ m/z 450.1. 1H NMR (400 MHz, DMSO): δ 10.23 (s, 1H); 8.82 (d, J=4.9 Hz, 1H); 8.38 (s, 1H); 7.61 (d, J=7.8 Hz, 1H); 7.50 (d, J=7.8 Hz, 1H); 7.32 (t, J=7.8 Hz, 1H); 7.27 (d, J=5.0 Hz, 1H); 7.15 (s, 1H); 6.65 (s, 2H); 3.93 (d, J=12.3 Hz, 2H); 3.22-3.08 (m, 2H); 1.95 (d, J=13.1 Hz, 2H); 1.65 (d, J=14.4 Hz, 2H). rhSyk=++.

reactant | ethyl 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.08 mmol, 38 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)OCC)(F)F | C22H22F3N5O2S
reactant | lithium hydroxide | 0.5 mmol, 1M, 0.5 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | 2-methyltetrahydrofuran | 30 mL | CC1OCCC1 | C5H10O
product | 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid | 0.08 mmol, 36 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)O)(F)F | C20H18F3N5O2S
